Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"Today we all thought I should be seen by someone to make sure
I'm safe..I was hearing voices ___ and ___ telling me I
was worthless and to cut myself with a knife.
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ yo ___ year ___ student with unspecified
psychiatric history, notable for chronic SI,reported hx of
depression, and dissociate episodes since high school,
{un-witnessed] sent from ___ Behavioral Health suicidal and
hearing voices telling him to kill himself. The patient reports
he has heard voices on and off since he was ___ years old and 
today
he reported to ___ he was more depressed " worst ever" in the
context of academic stress and the voices have increased and his
depression has become more intense. He reports that last 
___
and ___ night he was hearing voices telling him  "I'm not
worth anything and to kill myself" and took steps toward the
kitchen to get a knife cut himself but did not act on them. But
could not say why.
He is now worried that this will happen again and felt that he
could not remain safe and continues to feel suicidal with
thoughts of cutting himself with the kitchen knife.
He recently flunked a Statistics exam and is in danger of 
failing
other classes and finals are this week.
He reports he was majoring in ___, before that 
___, is now thinking of switching to ___ but does 
not
want to disappoint his parents. He took a medical leave in ___
and thinks this would currently be his best option. 
He reports that he has been increasingly irritable, denies sleep
or appetite disturbances but did not sleep last night as he has
___ anxious about his poor academic performance and anticipating
his meeting today with Behavioral health. 
He reports feeling hopeless but " at the same time something
internally tells me I'm ok".He reports that he is not currently
feeling suicidal but cannot guarantee he would be "100% safe" if
he was discharged and said that he was too anxious at this time
to know for sure if he is suicidal.He reportd he has had AH and
VH for many years and  had never discussed these with his 
parents
"because we don't talk about stuff like that."

 
Past Medical History:
Hospitalizations:none
Current treaters and ___ @ ___
___ reports that she has discussed increasing
treatment to 2x a week
Patient reports he was treated by a psychiatrist at the end of
___ the beginning ig of ___ in ___, after he took a
semester off from ___  
Medication and ECT trials:none
Self-injury: hx of cutting in the past has not cut for over ___
years
Harm to others:denies
Access to weapons:denies access to guns has access to kitchen
knives
Past Hx Per Dr. ___ note of ___ Spoke with
Dr. ___, on call psychiatrist at ___ behavioral
___ who reviewed the patient's record, on call ___
___ that time
He was Seeing ___, counselor at ___, 6 notes in the
system: 
1ast saw in ___ called emergency number w suicidal 
thoughts
and academic problems.Requested seeing someone for help. Seen 
for
intake in ___, self referred for severe depression 
and
suicidality no formal history, never talked to anyone before.
 On going suicidal thoughts specifically to jump in front
of the T, there are urges most ___ almost jumped
in front of the T, woke up that day feeling terrible and 
weighted
down.  First SA at age ___ when tried to jump into traffic but
kindergarten staff stopped him.  On 2 occasions HI in high 
school
confrontation with a boy, then found him injured on the ground.
no recollection of the events. ___ grabbed a box cutter
to stab someone when got into a fight with co worker was stopped
by fellow ___ worker.  +visual hallucinations of family
members in his room. No connection with family, "never had more
than 5 minutes conversation" sent to ___ for evaluation
___ and ___ saw ___ again: busy with exams, 
no
episodes of SI, explored early childhood relationships. Referred
out to community provider to ___ these episodes.  Given a
list of 10 names to call himself.  
No futher appointments scheduled
 
Social History:
Family of origin: Parents born/raise in ___.Patient 
born
in ___ and moved to ___ at 2 months old. Has ___ ___
sisters age ___ and ___ in high school good relationship with
them. Has 'no connection' to parents. Denies this being due to
cultural difference, religion, political issues or school
pressures. He just has nothing to say to them. Has not told
family about his psychiatric symptoms ever.  
 Wants to stay in ___, likes the diversity and options. His
town in ___ was "small, between rural and ___,
conservative" patient identifies as liberal.  Father is a
physical therapist, mother stays at home, formally worked as a
social worker.
interests: plays ukulele, piano, saxophone, friend group mixed
males and females. denies peer pressure to do more/less alcohol,
drugs or sex
Education: ___ year, ___ student, not
doing well in major 'wrong major, I'm bad with the concepts"
plans to change major to finance and this will the second time 
he
changed majors. He reports his family is disappointed as they
wanted him to become a ___ and, before he was an
___ major he was a majoring in biomedical ___. 
Occupations/Income: significant financial concerns in the 
family.
patient feels that paying for BU is a big burden. this kept him
for going to a therapist which would cost money.
He reports that he is planning to remain ___ for the summer 
as
he as to take classes in order to graduate on time.
Housing: Lives in ___ owned ___ apartment. 
He currently has a girlfriend who is also a ___ student.
He tutors children in math and ___ part time in ___ 

SUBSTANCE ABUSE HISTORY:
Alcohol: reports drinking ___ beers a week, reports that when he
first started @ ___ as a freshman he "tried to drink as much as
everyone else but I couldn't" and would pass out, denies
blackouts or w/d sz
Illicits: mj, denies other substances, deniee IVDA

FORENSIC HISTORY:___
Family History:
Denies any.
 
Physical Exam:
On admission:

VS:  T 98, bp 123/83, HR 83, 100%(RA)
General- NAD
Skin- no rashes or bruises
HEENT- PERRLA, MMM, normal oropharynx
Lungs- CTA bilaterally
CV- RRR, N S1 and S2, no m/r/g
Abdomen- Soft, NT, ND, +BS, no guarding or rebounding
Extremities- No edema, normal tone
Neuro- CN II-XII intact, normal gait, ___ strength UE & ___
bilaterally, normal sensation throughout

 
Pertinent Results:
___ 03:32PM   GLUCOSE-100 UREA N-12 CREAT-0.9 SODIUM-139 
POTASSIUM-4.0 CHLORIDE-101 TOTAL CO2-30 ANION GAP-12
___ 03:32PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 03:32PM   WBC-6.7 RBC-5.25 HGB-14.8 HCT-45.6 MCV-87 
MCH-28.2 MCHC-32.5 RDW-12.6 RDWSD-39.5
___ 03:32PM   NEUTS-62.2 ___ MONOS-8.2 EOS-2.4 
BASOS-0.9 IM ___ AbsNeut-4.18 AbsLymp-1.74 AbsMono-0.55 
AbsEos-0.16 AbsBaso-0.06
___ 03:32PM   PLT COUNT-___. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. He also signed a 3-day letter upon 
admission, which expired on ___. He was placed on q5 minute 
checks status on admission, and switched to q15 min checks the 
following day, and remained on that level of observation 
throughout while being unit restricted. He remained in good 
behavioral control throughout admission, and was cooperative.

2. PSYCHIATRIC:
#) Unspecified mood disorder:
Patient presented initially after several days of ___ to kill 
himself and grabbing a knife, in the context of multiple 
stressors (having too many commitments academically and with 
extracurriculars, as well as financial), and reported this to 
his therapist at ___, who then sent him to the 
ED. He was an inconsistent historian, reporting multiple 
psychiatric symptoms that do not fit into a clear diagnostic 
category. He does report some neurovegetative sx of depression 
as well as anxiety, and AH that have recently become command in 
nature (unclear timeline prior), and chronic (lifetime) SI that 
increased recently. The time course of his symptoms is unclear, 
however he likely has an affective (depressive) component as 
well as possible psychosis and/or bipolar disorder. Past 
prescription of Trileptal raises concern for possible bipolar 
disorder with psychotic features, as does his description of 
being overcommitted to activities and not needing much sleep. 
However the affective nature of his AH, as well as past 
dissociative episodes also raises possibility of personality 
disorder and/or trauma history. A primary psychotic disorder is 
also possible, though he appears to have some good premorbid 
functioning, creating his own non-profit and with multiple 
intact relationships, though his grades have been slipping 
recently.

Patient underwent psychological testing while on the inpatient 
unit to try to help with diagnostic clarification. Unfortunately 
this testing did not yield further diagnosis, as patient's 
answers were inconsistent, at times minimizing and
other times exaggerating and shifting. He scored low on 
depressive sx, with no real evidence of psychosis or mania, 
demonstrated a few borderline features and some suicidal 
features. He scored significantly on anxiety and this was 
confirmed on
interview. However testing was noted to be not revealing for any 
clear diagnostic category.

He was started on ___ 0.5 mg qHS due to concern for 
possible bipolar disorder and to help with his impulsivity and 
distress tolerance. Patient signed a 3-day letter on the first 
day of his admission, and team discussed with him staying longer 
on the unit for further diagnostic clarification and/or 
medication trials, however patient remained resolute that he 
wished to be discharged. He maintained positive, bright affect 
throughout admission, denying any SI throughout, and stating he 
felt better and safe returning to school. He noted he felt he 
had significant psychosocial support, through friends who 
visited him on the unit, his girlfriend and her parents, and his 
parents, with whom he discussed his mental health in greater 
detail than ever before. He also plans on cutting back on his 
extracurriculars and academics, and says he is considering 
taking a medical leave from school. He noted he planned on 
following up with ___ mental ___, continuing with the 
___, and following up with psychiatrist that is to be 
assigned to him. He voiced understanding that if he were to 
develop worsening depression, anxiety, psychosis, or any SI, to 
return to the BI ED and/or tell his treaters immediately. 
Patient's risk factors were felt to be mitigated and he was 
assessed as safe for discharge on the day his 3-day letter 
expired, ___.

3. SUBSTANCE USE DISORDERS:
#) No acute substance use issues (patient denied).

4. MEDICAL
#) No acute medical issues.

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient often attended these groups that focused on teaching 
patients various coping skills. He also was actively social and 
visible in the milieu, making friends on the unit and often 
interacting with other patients, as well as having his own 
visitors. He was compliant, cooperative, and pleasant in 
individual meetings with team members, and forthcoming about his 
symptoms (though vague and inconsistent in his descriptions).

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
Parents were called and family meeting held on day of discharge 
by phone with mother and father individually, and patient 
present. Patient's presentation to the hospital was discussed, 
including his presenting symptoms, and the teams assessment of 
his presentation. We also discussed treatment recommendations 
including pharmacotherapy, continuing with outpatient therapy, 
and cutting back on academic requirements and extracurricular 
commitments. Parents expressed understanding of the patient's 
symptoms and stated they thought he often took on too much 
academically, which then stressed him out. They were in 
understanding of the discharge plan.

#) INTERVENTIONS
- Medications: Initiated Risperdal 0.5 mg qHS.
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: via ___ mental health - to see prior 
therapist at ___ and to obtain psychiatrist through ___.
- Behavioral Interventions (e.g. encouraged DBT skills, ect): 
Group and individual therapy, coping skills, improving insight 
into his illness and importance of treatment adherence.
- Guardianships: N/A

INFORMED CONSENT: Risperidone: The team discussed the 
indications for, intended benefits of, and possible side effects 
and risks of starting this medication, and risks and benefits of 
possible alternatives, including not taking the medication, with 
this patient.   We discussed the patient's right to decide 
whether to take this medication as well as the importance of the 
patient's actively participating in the treatment and discussing 
any  questions about medications with the treatment team, and I  
answered the patient's questions.  The patient appeared able to 
understand and consented to begin the medication.

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to himself based upon his active SI with 
___ telling him to harm himself. His static factors noted at 
that time include history of suicide attempts, male gender, age, 
and parents living far away. The modifiable risk factors were 
also addressed at that time, including resolution of SI with 
future orientation, initiation on medication (Risperdal), 
connection with outpatient treaters (to obtain psychiatrist via 
BU), introduction of reality testing and improvement of insight 
into his illness, involvement of family, teaching of coping 
skills via individual and group therapy, and reduction of 
academic stress via cutting back on activities and encouraging 
medical leave from school. Finally, the patient is being 
discharged with many protective risk factors, including 
help-seeking nature, future-oriented viewpoint, support from and 
a sense of responsibility to family, friends, and girlfriend, 
life satisfaction, lack of current suicidal ideation, no history 
of substance use disorder, compliance with treatment on unit, 
some awareness of his mental health problems, and intention to 
follow up with psychiatric care. Overall, based on the totality 
of our assessment at this time, the patient is not at an acutely 
elevated risk of self-harm nor danger to others. Our prognosis 
of this patient is fair.

MODIFIABLE RISK FACTORS
Suicidal ideation with plan (no intent), lack of outpatient 
psychiatrist/medications, impulsivity, limited coping skills, 
poor reality testing, insomnia, and acute financial and academic 
stressors. 

PROTECTIVE RISK FACTORS
Help-seeking nature, future-oriented viewpoint, support from and 
a sense of responsibility to family, friends, and girlfriend, 
life satisfaction, lack of current suicidal ideation, no history 
of substance use disorder, compliance with treatment on unit, 
some awareness of his mental health problems, and intention to 
follow up with psychiatric care. Thus, I feel the patient does 
not meet section 12a criteria for risk of harm to self/others. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. RisperiDONE 0.5 mg PO QHS 
RX *risperidone 0.5 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*1

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified mood disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were hospitalized at ___ for suicidal thoughts, and 
feelings of depression and anxiety. You were admitted to the 
inpatient psychiatric unit and stabilized there. You are being 
discharged to follow back up with BU mental health.  

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___